US05648373
1,4,5-Triphenyl-2-(6-bromohexyloxy)imidazole (0.95 g) was dissolved in hot ethanol (5 ml) and a solution of sodium sulphite (0.25 g) in hot water (3 ml) was added. The white suspension was heated at reflux for 24 hours then evaporated to dryness. The residue was recrystallised from ethanol then methanol/ethanol to give sodium 6-(1,4,5-triphenylimidazol-2-yloxy)hexane-sulphonate (0.15 g, 15%) as a colourless solid, m.p. 265° C.

reactant | 1,4,5-Triphenyl-2-(6-bromohexyloxy)imidazole | 0.95 g | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCBr | C27H27BrN2O
reactant | sodium sulphite | 0.25 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | sodium 6-(1,4,5-triphenylimidazol-2-yloxy)hexane-sulphonate | 0.15 g, 15% | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C27H28N2O4S.Na/c30-34(31,32)21-13-2-1-12-20-33-27-28-25(22-14-6-3-7-15-22)26(23-16-8-4-9-17-23)29(27)24-18-10-5-11-19-24;/h3-11,14-19H,1-2,12-13,20-21H2,(H,30,31,32);/q;+1/p-1
